US07683079B2
Step C]: (3R,4S)-4-Benzyloxycarbonylamino-3-(thiazolidine-3-carbonyl)-piperidine-1-carboxylic acid tert-butyl ester
(3R,4S)-4-Methoxycarbonylamino-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester (557 mg) was dissolved in abs. DCM (20 ml). To this solution were added subsequently benzotriazol-1-yloxy)-tripyrrolidinophosphonium-hexafluorophosphate (919 mg), triethylamine (0.47 ml) and—after 5 minutes—thiazolidine (151 mg). The mixture was allowed to stir for 5 hours at RT. The mixture was poured into ice/brine and the aqueous layer was extracted with ethyl acetate. The organic layer was washed with brine, dried (Na2SO4) and evaporated. The residue was purified by flash chromatography (gradient of ethyl acetate in heptane) to give the product as a white foam (403 mg). MS (ESI): 450.3 (MH+).

reactant | (3R,4S)-4-Methoxycarbonylamino-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester | 557 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)NC(=O)OC)C(=O)O | C13H22N2O6
reactant | DCM | 20 ml | C(Cl)Cl | CH2Cl2
reactant | tripyrrolidinophosphonium hexafluorophosphate | 919 mg | N1(CCCC1)[PH+](N1CCCC1)N1CCCC1.F[P-](F)(F)(F)(F)F
reactant | thiazolidine | 151 mg | S1CNCC1 | C3H7NS
reactant | triethylamine | 0.47 ml | C(C)N(CC)CC | C6H15N
product | (3R,4S)-4-Benzyloxycarbonylamino-3-(thiazolidine-3-carbonyl)-piperidine-1-carboxylic acid tert-butyl ester | 403 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)C(=O)N1CSCC1 | C22H31N3O5S
